US04567172
21-Butyryloxy-11β-hydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione
Using 232 mg of 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione obtained according to the method as described in Example 42, the reaction with butyric anhydride was carried out in the same manner as described in Example 10 and the reaction mixture was treated similarly whereby 231 mg (yield: 86.8%) of the title compound was obtained.

reactant | 11β,21-dihydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 232 mg | O[C@@H]1[C@@H]2[C@]3(C=CC(C=C3[C@H](C[C@H]2[C@@H]2CC[C@](C(CO)=O)([C@]2(C1)C)OC(CC)=S)C)=O)C | C25H34O5S
reactant | butyric anhydride | C(CCC)(=O)OC(CCC)=O | C8H14O3
product | 21-Butyryloxy-11β-hydroxy-6α-methyl-17α-methylthioacetoxy-1,4-pregnadiene-3,20-dione | 231 mg, yield: 86.8% | C(CCC)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(CC)=S)=O | C29H40O6S
